US06248765B1
3-(1H-Imidazol-4-yl)propyl 4-(1-pentynyl)phenyl ether
5 mmol of 4-(3-hydroxypropyl)-1H-imidazole-1-carboxylic acid tert-butyl ester and 5 mmol of 4-(1-pentynyl)phenol are treated as described in Example 122.

reactant | 4-(3-hydroxypropyl)-1H-imidazole-1-carboxylic acid tert-butyl ester | 5 mmol | C(C)(C)(C)OC(=O)N1C=NC(=C1)CCCO | C11H18N2O3
reactant | 4-(1-pentynyl)phenol | 5 mmol | C(#CCCC)C1=CC=C(C=C1)O | C11H12O
product | 3-(1H-Imidazol-4-yl)propyl 4-(1-pentynyl)phenyl ether | C(#CCCC)C1=CC=C(C=C1)OCCCC=1N=CNC1 | C17H20N2O
